US07709500B2
Step 2: 1-amino-4-[4-(3,4-dichlorophenoxy)piperidin-1-yl]butan-2-ol
In a sealed metal tube, a solution of 4-(3,4-dichlorophenoxy)-1-(2-oxiran-2-ylethyl)piperidine (1.00 g) in 7N ammonia in methanol (25 ml) was heated at 70° C. for 12 h. The solvent was removed under vacuum and the residue purified on silicagel (0 to 10% 7N ammonia in methanol/dichloromethane) to afford the title compound as a yellow oil (0.55 g).

reactant | 4-(3,4-dichlorophenoxy)-1-(2-oxiran-2-ylethyl)piperidine | 1.00 g | ClC=1C=C(OC2CCN(CC2)CCC2OC2)C=CC1Cl | C15H19Cl2NO2
reactant | ammonia | 7N | N | H3N
solvent | methanol | 25 ml | CO | CH4O
product | 1-amino-4-[4-(3,4-dichlorophenoxy)piperidin-1-yl]butan-2-ol | 0.55 g | NCC(CCN1CCC(CC1)OC1=CC(=C(C=C1)Cl)Cl)O | C15H22Cl2N2O2
